US08633200B2
Methyl 2-(7-chloro-5-methyl-3-phenylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate
To a stirred solution of KHMDS (0.5 M in toluene, 4.6 mL, 4.75 mmol) in THF (12 mL) at −78° C. was added a solution of methyl 2-(7-chloro-5-methyl-3-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.48 g, 1.5 mmol) in THF (12 mL) over 20 mins. The reaction mixture was stirred at −78° C. for 30 min. A solution of 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine (0.6 g, 2.3 mmol) in THF (12 mL) was added over 10 min and the resulted reaction mixture was stirred for an additional 30 min at −78° C. The reaction mixture was quenched with saturated NH4Cl aqueous solution (2 mL). The mixture was allowed to warm up to room temperature and diluted with EtOAc (100 mL). The organic phase was washed with water and brine and dried with sodium sulfate. The solvent was evaporated. Purification by silica gel chromatography provided the title compound (250 mg, 51%). 1H-NMR (500 MHz, DMSO-d6) δ ppm 2.65 (3H, s), 3.7 (3H, s), 5.79 (1H, s), 6.62 (1H, s), 7.35-7.59 (3H, m), 8.95 (1H, s).

reactant | KHMDS | 4.75 mmol, 0.5 M, 4.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methyl 2-(7-chloro-5-methyl-3-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 1.5 mmol, 0.48 g | ClC1=C(C(=NC=2N1N=CC2C2=CC=CC=C2)C)CC(=O)OC | C16H14ClN3O2
reactant | 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine | 2.3 mmol, 0.6 g | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | Methyl 2-(7-chloro-5-methyl-3-phenylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 250 mg, 51% | ClC1=C(C(=NC=2N1N=CC2C2=CC=CC=C2)C)C(C(=O)OC)O | C16H14ClN3O3
